US09108969B2
Step A: Preparation of tert-Butyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate
To a solution of tert-butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (100 mg, 0.195 mmol) in DCM (2 mL) was added 1-iodopyrrolidine-2,5-dione (43.8 mg, 0.195 mmol) at 0° C. and the reaction was allowed to continue at 0° C. for 30 min in a 20 mL sealed scintillation vial. After 30 min, the reaction mixture was diluted with DCM, washed with water (3×10 mL), sodium thiolsulfate pentahydrate (aq) (2×10 mL), dried over MgSO4 and filtered. The filtrate was concentrated under reduced pressure to give the title compound as an off-white solid (118 mg). LCMS m/z=640.4 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.38 (s, 9H), 1.55-1.73 (m, 4H), 1.79-1.89 (m, 2H), 1.95-2.05 (m, 2H), 2.26-2.38 (m, 1H), 2.51-2.56 (m, 1H), 2.77-2.88 (m, 1H), 2.94 (dd, J=15.92, 3.41 Hz, 1H), 3.20-3.28 (m, 1H), 3.50-3.60 (m, 1H), 3.99-4.08 (m, 1H), 4.12-4.21 (m, 1H), 5.18 (s, 2H), 6.79 (d, J=2.27 Hz, 1H), 6.87 (dd, J=8.78, 2.46 Hz, 1H), 7.26 (d, J=8.84 Hz, 1H), 7.63 (d, J=8.59 Hz, 1H), 7.70-7.77 (m, 2H).

reactant | tert-butyl 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.195 mmol, 100 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=C1)C(F)(F)F | C30H34F3NO3
reactant | 1-iodopyrrolidine-2,5-dione | 0.195 mmol, 43.8 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 118 mg | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)I)C=C1)C(F)(F)F | C30H33F3INO3
